US07893099B2
Step 5: 3-(2-Chloro-benzenesulfonyl)-cyclopentanecarboxylic acid
A solution of 3-(2-chloro-benzenesulfonyl)-cyclopentanecarboxylic acid methyl ester (0.25 g, 1.0 eq) in methanol (8.0 mL) was treated with 1N LiOH (1.6 mL, 2.0 eq). The mixture was stirred at RT for 3 h and then acidified to pH 4 with HCl 1N. The methanol was evaporated and the residue extracted with ethyl acetate. The organic phase was dried over sodium sulfate and evaporated. The title compound was obtained as a colorless oil (0.25 g, 100%) and was used crude. MS (ESI): m/z=287.3 [M−H]−.

reactant | 3-(2-chloro-benzenesulfonyl)-cyclopentanecarboxylic acid methyl ester | 0.25 g, 1.0 eq | COC(=O)C1CC(CC1)S(=O)(=O)C1=C(C=CC=C1)Cl | C13H15ClO4S
reactant | LiOH | 1N, 1.6 mL, 2.0 eq | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 8.0 mL | CO | CH4O
product | 3-(2-Chloro-benzenesulfonyl)-cyclopentanecarboxylic acid | ClC1=C(C=CC=C1)S(=O)(=O)C1CC(CC1)C(=O)O | C12H13ClO4S
